US07888364B2
Procedure G was used to couple BOC-4-(aminomethyl)benzoic acid (48 mg) with 4-chloro-3-(pyridin-2-yl)aniline (35 mg). The crude reaction mixture was treated with TFA (1 mL) containing trace amounts of water for 1 h. The reaction mixture was concentrated to yield 4-(aminomethyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide.

reactant | BOC-4-(aminomethyl)benzoic acid | 48 mg | C(=O)(OC(C)(C)C)C1=C(C(=O)O)C=CC(=C1)CN | C13H17NO4
reactant | 4-chloro-3-(pyridin-2-yl)aniline | 35 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | O | H2O
product | 4-(aminomethyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | NCC1=CC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1 | C19H16ClN3O
